US07897619B2
(S)-tert-Butyl 4-azido-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate:
(S)-3-(tert-Butoxycarbonylamino)-4-(4-(trifluoromethyl)phenyl)butyl methanesulfonate from the previous reaction was dissolved in 25 mL DMF and NaN3 (1.3 g, 20 mmol) was added. The mixture was heated to 70° C. for 4 hours and cooled back to room temperature. Water and EtOAc were added and the phases were separated. The aqueous phase was extracted with EtOAc (3×100 mL) and the combined organic layers were dried over MgSO4 and evaporated. Glass column chromatography (10% EtOAc in hexanes) provided the title compound as white solid. LCMS (API-ES) m/z (%): 259.0 (100%, M++H).

reactant | (S)-3-(tert-Butoxycarbonylamino)-4-(4-(trifluoromethyl)phenyl)butyl methanesulfonate | CS(=O)(=O)OCC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(=O)OC(C)(C)C | C17H24F3NO5S
reactant | NaN3 | 20 mmol, 1.3 g | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 4-azido-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | N(=[N+]=[N-])CC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H21F3N4O2
